US03987047
2-[1,2,4,5-Tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline-3-yl]acetonitrile dihydrochloride was prepared from 1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline and chloroacetonitrile analogous to Example 186.

reactant | 1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline | CC1=C2C(=NC=3C=CC=CC13)CCNCC2 | C14H16N2
reactant | chloroacetonitrile | ClCC#N | C2H2ClN
product | 2-[1,2,4,5-Tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline-3-yl]acetonitrile dihydrochloride | Yield: 25% | Cl.Cl.CC1=C2C(=NC=3C=CC=CC13)CCN(CC2)CC#N | InChI=1S/C16H17N3.2ClH/c1-12-13-4-2-3-5-15(13)18-16-7-10-19(11-8-17)9-6-14(12)16;;/h2-5H,6-7,9-11H2,1H3;2*1H
